US07566724B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (59.3 mg) was reacted with N-benzyl-N-(4-iodophenyl)pyrimidin-2-amine (67.0 mg) to obtain (E)-5-[4-(benzyl-pyrimidin-2-yl-amino)-phenyl]-2-(2,6-dichlorobenzamido)-pent-4-enoic acid methyl ester (58.7 mg). Column chromatography (silica gel, eluent: chloroform/cyclohexane=2/1 chloroform) and thin layer chromatography (silica gel, mobile phase: cyclohexane/ethyl acetate=2/1) were used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 59.3 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | N-benzyl-N-(4-iodophenyl)pyrimidin-2-amine | 67.0 mg | C(C1=CC=CC=C1)N(C1=NC=CC=N1)C1=CC=C(C=C1)I | C17H14IN3
product | (E)-5-[4-(benzyl-pyrimidin-2-yl-amino)-phenyl]-2-(2,6-dichlorobenzamido)-pent-4-enoic acid methyl ester | 58.7 mg | COC(C(C\C=C\C1=CC=C(C=C1)N(C1=NC=CC=N1)CC1=CC=CC=C1)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C30H26Cl2N4O3
